US20010047006A1
Preparation of Intermediate (2R)-3-(3′,4′-Difluorophenyl)-2-hydroxypropionic Acid
Boc-D-3,4-Difluorophenylalanine (3.05 g, 11.0 mmol, 1 equiv) was dissolved in 1,4-dioxane (10 mL), and a solution of HCl in 1,4-dioxane (4.0 M, 10 mL) was added. The reaction was stirred at 23° C. for 5 h, then the solvent was removed under reduced pressure. The residue was dissolved in 1 M H2SO4 (22 mL), cooled to 0° C. and 2 N NaNO2 (22 mL) was added via addition funnel under argon. The reaction mixture was stirred at 0° C. for 3 h and warmed to room temperature overnight. The resulting mixture was extracted with MTBE (3×40 mL), dried over Na2SO4 and concentrated. The residue was recrystallized from ether/petroleum ether to afford the title intermediate (1.29 g, 58%) as off-white solid. 1H NMR (DMSO-d6) δ 0.82-0.86 (m, 2H), 1.10-1.27 (m, 4H), 1.40-1.48 (m, 2H), 1.63-1.78 (m, 5H), 3.95-4.00 (m, 1H).

reactant | Boc-D-3,4-Difluorophenylalanine | 11.0 mmol, 3.05 g, 1 equiv | CC(C)(C)OC(=O)N[C@H](CC1=CC(=C(C=C1)F)F)C(=O)O | C14H17F2NO4
reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | 1,4-dioxane | 4.0 M, 10 mL | O1CCOCC1 | C4H8O2
product | (2R)-3-(3′,4′-Difluorophenyl)-2-hydroxypropionic Acid | 1.29 g, 58% | FC=1C=C(C=CC1F)C[C@H](C(=O)O)O | C9H8F2O3
